US05877202
Methyl [5-methoxy-1-(3-phenylpropyl)-2-methyl-indol-3-yl]-acetate
Prepare by a method similar to Example 48 using methyl [5-methoxy-2-methyl-indol-3-yl]-acetate and 3-phenylpropyl bromide.

reactant | methyl [5-methoxy-2-methyl-indol-3-yl]-acetate | COC=1C=C2C(=C(NC2=CC1)C)CC(=O)OC | C13H15NO3
reactant | 3-phenylpropyl bromide | C1(=CC=CC=C1)CCCBr | C9H11Br
product | Methyl [5-methoxy-1-(3-phenylpropyl)-2-methyl-indol-3-yl]-acetate | COC=1C=C2C(=C(N(C2=CC1)CCCC1=CC=CC=C1)C)CC(=O)OC | C22H25NO3
